US09120749B2
{6-Bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (210 mg, 0.680 mmol) was reacted with 4-(pyrrolidin-1-ylmethyl)piperidine (229 mg, 1.36 mmol) to afford the desired product (210 mg, 70%) as a yellow semisolid: ESI MS m/z 443 [C23H28BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.680 mmol, 210 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-(pyrrolidin-1-ylmethyl)piperidine | 1.36 mmol, 229 mg | N1(CCCC1)CC1CCNCC1 | C10H20N2
product | {6-Bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 210 mg, 70% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCCC1 | C23H28BrN3O
